US04260681
To a stirred suspension of 104 g of phosphorous pentachloride in 550 ml of methylene chloride at -10° C., is added 70 g of L-serine methyl ester hydrochloride, in approximately 5 g portions, over a period of 40 minutes while the temperature is maintained between -10 and 0° C. The reaction mixture is then allowed to warm to room temperature with stirring. Stirring is continued for 2-3 hours and the mixture is then poured into 550 ml of stirred petroleum ether. The resultant mixture is filtered and the filter cake is washed with petroleum ether (3×100 ml) and then with ether (2×100 ml). The combined filtrate and washings are dried under vacuum over sodium hydroxide pellets to afford 71 g of β-chloroalanine methyl ester hydrochloride.

reactant | phosphorous pentachloride | 104 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | L-serine methyl ester hydrochloride | 70 g | Cl.COC([C@@H](N)CO)=O
solvent | methylene chloride | 550 ml | C(Cl)Cl | CH2Cl2
product | β-chloroalanine methyl ester hydrochloride | 71 g | Cl.COC([C@@H](N)CCl)=O | InChI=1S/C4H8ClNO2.ClH/c1-8-4(7)3(6)2-5;/h3H,2,6H2,1H3;1H/t3-;/m0./s1
